US06277862B1
(S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide
2.49 g (9.4 mmol) of 3-hydroxy-2-phenylquinoline-4-carboxylic acid (CAS [485-89-2]) were suspended in 150 ml of a 7/3 mixture of THF/CH3CH; 1.40 g (10.3 mmol) of 1-hydroxybenzotriazole (HOBT) and 1.27 g (9.4 mmol) of (S)-α-ethylbenzylamine dissolved in 20 ml of CH2Cl2 were added and the reaction mixture was stirred at room temperature for 30 minutes. 2.13 g (10.3 mmol) of dicyclohexylcarbodiimide (DCC) dissolved in 20 ml of CH2Cl2 were added dropwise. The reaction was left at room temperature overnight, quenched with 20 ml of H2O, evaporated in-vacuo to dryness and dissolved in EtOAc. The precipitated dicyclohexylurea was filtered off and the organic layer was washed with H2O, 20% citric acid, sat. sol. NaHCO3, sat. sol. NaCl. The organic layer was separated, dried over Na2SO4 and evaporated in-vacuo to dryness; the residue was purified by gradient column chromatography on 60-240 mesh silica gel using a mixture of hexane/EtOAc 9:1 as starting eluent and a mixture of hexane/EtOAc 7:3 as final eluent. The crude product was recrystallized from i-PrOH to yield 1.75 g of the title compound as a white solid.

reactant | 3-hydroxy-2-phenylquinoline-4-carboxylic acid | 9.4 mmol, 2.49 g | OC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C16H11NO3
reactant | 1-hydroxybenzotriazole | 10.3 mmol, 1.40 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-α-ethylbenzylamine | 9.4 mmol, 1.27 g | C(C)[C@@H](C1=CC=CC=C1)N | C9H13N
reactant | dicyclohexylcarbodiimide | 10.3 mmol, 2.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide | 1.75 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C25H22N2O2
